US07482448B2
((S)-1-{Hydroxy-[5-(5-methyl-isoxazol-3-yl)-oxazol-2-yl]-methyl}-propyl)-carbamic acid tert-butyl ester
Triethylborane (1M in THF, 12 mL, 12 mmol) is added to a solution of 5-Methyl-3-oxazol-5-yl-isoxazole (1.8 g, 12 mmol) in 40 mL of dry Tetrahydrofuran and the mixture is stirred at room temperature for 15 minutes. The mixture is cooled to −78° C., nBuLi (2.5M in Hexanes, 4.8 mL, 12 mmol) is added drop wise and the mixture is stirred at −78° C. for 15 minutes. A solution of (S)-1-Formyl-propyl)-carbamic acid tert-butyl ester (898.7 mg, 4.8 mmol) in 15 mL of dry tetrahydrofuran is added drop wise and the reaction mixture is stirred at −78° C. for 3 hours, then let warm to −30° C. and quenched with acetic acid in ethanol (4%, 250 mL), stirring continued for 2 hours, while warming to room temperature. The reaction is concentrated under reduced pressure; the residue is dissolved in diethyl ether (250 mL) and stirred for 1.5 hours at room temperature. The precipitate is filtered; the filtrate is concentrated under reduced pressure. Column chromatography on silica eluting with a mixture of methylene chloride and ethyl acetate gives the title compound as a solid (830 mg).

reactant | Triethylborane | 12 mmol, 1M, 12 mL | C(C)B(CC)CC | C6H15B
reactant | 5-Methyl-3-oxazol-5-yl-isoxazole | 12 mmol, 1.8 g | CC1=CC(=NO1)C1=CN=CO1 | C7H6N2O2
reactant | nBuLi | 12 mmol, 2.5M, 4.8 mL | [Li]CCCC
reactant | carbamic acid tert-butyl ester | 4.8 mmol, 898.7 mg | C(C)(C)(C)OC(N)=O | C5H11NO2
reactant | Tetrahydrofuran | 40 mL | O1CCCC1 | C4H8O
reactant | tetrahydrofuran | 15 mL | O1CCCC1 | C4H8O
product | ((S)-1-{Hydroxy-[5-(5-methyl-isoxazol-3-yl)-oxazol-2-yl]-methyl}-propyl)-carbamic acid tert-butyl ester | 830 mg | C(C)(C)(C)OC(N[C@@H](CC)C(C=1OC(=CN1)C1=NOC(=C1)C)O)=O | C16H23N3O5
